datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[N+:12]([Si](C(C)C)(C(C)C)C(C)C)[CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1 10,11=10,20;12=11,12"
"C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH:11]1[H:10].Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH+:11]1.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1([H:10])[O-:21] 10,11=10,20;20,21=21"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]1CCCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[CH:10](C3=CC=CC=C3)[C:11]3=[N+:12](C)C4=C(C=CC=C4)[S:62]3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].NC1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2>>NC1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N:10]2[CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1 10=20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N:61]2[C-:10]=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62]2)C(C)=C1.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([C:10]2=[N+:71](C3=C(C)C=C(C)C=C3C)[CH:63]=[CH:62][N:61]2C2=C(C)C=C(C)C=C2C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[C-:10]([C:81]#[N:82])([C:91]([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:92])[C:101]1=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:81]#[N:82])([C:91]([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)=[O:92])[C:101]2=[CH:102][CH:103]=[CH:104][CH:113]=[CH:112]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>COC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH:10](C3=CC=C([N+](=O)[O-])C=C3)[C:11](=[N+:12]3CCCC3)[C:62]3=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1 10,11=10,20;20,21=21,22;22,23=23"
